US07560551B2
Step 1. Preparation of N-methyl-4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyridin-3-yl)pyrimidin-2-amine
1,1′-Bis(diphenylphosphino)ferrocene-palladium dichloride (0.0453 g, 0.0618 mmol), bis(pinacolato)diboron (0.330 g, 1.30 mmol), 4-(2-(4-iodophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.500 g, 1.24 mmol), and potassium acetate (0.243 g, 2.47 mmol) were combined in a sealed tube under nitrogen. 5 mL Dioxane was added, and the orange mixture was sealed and heated to and maintained at 75° C. After 5 h, a trace of desired product was evident by LCMS. The reaction was heated to 100° C., overnight. The temperature was raised to 120° C. After 16 h, the reaction was filtered through celite, rinsing with EtOAc, and concentrated in vacuo to a dark oil, which was purified by silica gel chromatography (50-100% EtOAc/hexanes) to give N-methyl4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyridin-3-yl)pyrimidin-2-amine. MS m/z=405 [M+H]+. Calc'd for C22H25BN4O3: 404.3.

reactant | bis(pinacolato)diboron | 1.30 mmol, 0.330 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 4-(2-(4-iodophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 1.24 mmol, 0.500 g | IC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H13IN4O
reactant | potassium acetate | 2.47 mmol, 0.243 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene-palladium dichloride | 0.0618 mmol, 0.0453 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-methyl-4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H25BN4O3
